US04797492
3-Trifluoromethyl-5-aminoisoxazole
Trifluoroacetoacetonitrile (1.37 g, 0.010 mole), hydroxylamine hydrochloride (0.69 g, 0.010 mole), ethanol and water were heated under reflux for 3 hours. After the addition of hydrochloric acid (1.21 g, 0.012 mole), the mixture was further heated under reflux to give the title compound (0.21 g, 13.7%).

reactant | Trifluoroacetoacetonitrile | 0.010 mole, 1.37 g | FC(C(CC#N)=O)(F)F | C4H2F3NO
reactant | hydroxylamine hydrochloride | 0.010 mole, 0.69 g | Cl.NO
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | 0.012 mole, 1.21 g | Cl | ClH
solvent | water | O | H2O
product | 3-Trifluoromethyl-5-aminoisoxazole | 0.21 g, 13.7% | FC(C1=NOC(=C1)N)(F)F | C4H3F3N2O
